US08563575B2
3-[1-(1H-benzimidazol-2-yl)-1H-indol-5-yl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-[1-(1H-benzimidazol-2-yl)-2,3-dihydro-1H-indol-5-yl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) and manganese dioxide (439 mg) in toluene (8 mL) was stirred at 100° C. for 5 h, filtered, treated with water and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane. Crystallization from AcOEt/Hexane gave the title compound (28.0 mg).

reactant | 3-[1-(1H-benzimidazol-2-yl)-2,3-dihydro-1H-indol-5-yl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | N1C(=NC2=C1C=CC=C2)N2CCC1=CC(=CC=C21)N2C(N(C=1C2=NC=CC1)CC)=O | C23H20N6O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 439 mg | [O-2].[O-2].[Mn+4]
product | 3-[1-(1H-benzimidazol-2-yl)-1H-indol-5-yl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 28.0 mg | N1C(=NC2=C1C=CC=C2)N2C=CC1=CC(=CC=C21)N2C(N(C=1C2=NC=CC1)CC)=O | C23H18N6O
